US04340758
contacting the 1,3-dimethyl-5-tertiary-butylbenzene with nitric acid in the presence of a mercuric acetate catalyst at a temperature of from about 0° C. to about 100° C. to form 2-nitro-1,3-dimethyl-5-tertiary-butylbenzene;

reactant | 1,3-dimethyl-5-tertiary-butylbenzene | CC1=CC(=CC(=C1)C(C)(C)C)C | C12H18
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-nitro-1,3-dimethyl-5-tertiary-butylbenzene | [N+](=O)([O-])C1=C(C=C(C=C1C)C(C)(C)C)C | C12H17NO2
